US06833378B2
(1-Ethyl-propyl)-[2-(4-isopropenyl-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-amine
The title compound was prepared by reacting of 2-{4-[4-(1-Ethyl-propylamino)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenyl}-propan-2-ol with Burgess Inner salt (Et3NS(O)2NCOOMe in benzene at reflux for 30 min. 1H NMR(CDCl3) d 7.17(s,2H), 6.08(s,1H), 5.34(s,1H), 5.02(s,1H), 3.72(d,1H), 3.32(m,1H), 2.12 and 2.15 (two sets of s, 12H), 1.4-1.6(m,4H), 0.97(t,6H) ppm.

reactant | 2-{4-[4-(1-Ethyl-propylamino)-3,6-dimethyl-pyridin-2-yloxy]-3,5-dimethyl-phenyl}-propan-2-ol | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C(C)(C)O)C)C | C23H34N2O2
solvent | benzene | C1=CC=CC=C1 | C6H6
product | (1-Ethyl-propyl)-[2-(4-isopropenyl-2,6-dimethyl-phenoxy)-3,6-dimethyl-pyridin-4-yl]-amine | C(C)C(CC)NC1=C(C(=NC(=C1)C)OC1=C(C=C(C=C1C)C(=C)C)C)C | C23H32N2O
